US04304770
A mixture of 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.2 g.), conc. hydrochloric acid (0.8 ml.) and methanol (16 ml.) was stirred for 3 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate (pH 7.5). The aqueous solution was adjusted to pH 3.5 with 10% hydrochloric acid and stirred for 1 hour. Precipitates were collected by filtration, washed with water and dried to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.35 g.).

reactant | 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.2 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NC(=NS2)C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H17N7O6S4
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | methanol | 16 ml | CO | CH4O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.35 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NC(=NS2)C)C(=O)O)C1=O)C=1N=C(SC1)N | C17H17N7O5S4
